US04341784
In place of 3-acetylaminopyrrolidine, 3-benzyloxycarbonylaminopyrrolidine was allowed to react with 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid in the same manner as described in Example 1 to give 7-(3-benzyloxycarbonylamino-1-pyrrolidinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, which was used in the next step:

reactant | 3-acetylaminopyrrolidine | C(C)(=O)NC1CNCC1 | C6H12N2O
reactant | 3-benzyloxycarbonylaminopyrrolidine | C(C1=CC=CC=C1)OC(=O)NC1CNCC1 | C12H16N2O2
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | ClC1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C11H8ClFN2O3
product | 7-(3-benzyloxycarbonylamino-1-pyrrolidinyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | C(C1=CC=CC=C1)OC(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)CC)C(=O)O)=O)F | C23H23FN4O5
